US07981888B2
ethyl 3-(3-hydroxypropyl)-1H-indole-2-carboxylate
To a mixture of ethyl 3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate (2.82 g) in THF (40 mL) was added IM borane-THF (40 mL). The mixture was stirred at room temperature for 16 hours, quenched with methanol (100 mL) and concentrated. The concentrate was purified by flash column chromatography on silica gel with 5-25% ethyl acetate/hexanes.

reactant | ethyl 3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate | 2.82 g | C(C)OC(CCC1=C(NC2=CC=CC=C12)C(=O)OCC)=O | C16H19NO4
reactant | borane THF | 40 mL | B.C1CCOC1
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3-hydroxypropyl)-1H-indole-2-carboxylate | OCCCC1=C(NC2=CC=CC=C12)C(=O)OCC | C14H17NO3
